US08076488B2
Step 2: Preparation of the title compound 4-[3-({[(1-methyl-1H-indazol-5-yl)amino]carbonyl}-amino)phenoxy]-N-(2-piperidin-1-ylethyl)pyridine-2-carboxamide
4-[3-({[(1-methyl-1H-indazol-5-yl)amino]carbonyl}amino)phenoxy]-pyridine-2-carboxylic acid (0.07 g, 0.17 mmol) was dissolved in DMF (2.5 mL), followed by sequential addition of 1-(2-aminoethyl)piperidine (0.02 g, 0.17 mmol), 1-hydroxybenzotriazole (0.05 g, 0.38 mmol), 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloride (0.05 g, 0.26 mmol), and N-methylmorpholine (0.04 g, 0.38 mmol). The mixture was stirred at room temperature for 12 h, and the solvent was removed in vacuo. The crude residue was dissolved in CH2Cl2 (10 mL), and washed with H2O (3 mL). The solvent was removed in vacuo, and the crude product was purified by preparative HPLC. The isolated product was washed with aq. Na2CO3 to give 0.07 g (78%) of the title compound. 1H-NMR (CD3OD) δ 8.51 (d, 1H), 7.91 (s, 1H), 7.84 (d, 1H), 7.59 (d, 1H), 7.50-7.46 (m, 2H), 7.41-7.36 (m, 2H), 7.26 (dd, 1H), 7.10 (dd, 1H), 6.81-6.77 (dd, 1H), 4.03 (s, 3H), 3.60 (t, 2H), 2.78-2.71 (m, 6H), 1.69-1.51 (m, 6H); MS LC-MS (M+H)+=514.3, RT=2.62 min.

reactant | 4-[3-({[(1-methyl-1H-indazol-5-yl)amino]carbonyl}amino)phenoxy]-pyridine-2-carboxylic acid | 0.17 mmol, 0.07 g | CN1N=CC2=CC(=CC=C12)NC(=O)NC=1C=C(OC2=CC(=NC=C2)C(=O)O)C=CC1 | C21H17N5O4
reactant | 1-(2-aminoethyl)piperidine | 0.17 mmol, 0.02 g | NCCN1CCCCC1 | C7H16N2
reactant | 1-hydroxybenzotriazole | 0.38 mmol, 0.05 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloride | 0.26 mmol, 0.05 g | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 0.38 mmol, 0.04 g | CN1CCOCC1 | C5H11NO
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 4-[3-({[(1-methyl-1H-indazol-5-yl)amino]carbonyl}-amino)phenoxy]-N-(2-piperidin-1-ylethyl)pyridine-2-carboxamide | 0.07 g, 78% | CN1N=CC2=CC(=CC=C12)NC(=O)NC=1C=C(OC2=CC(=NC=C2)C(=O)NCCN2CCCCC2)C=CC1 | C28H31N7O3
